US07608629B2
Preparation 6. 1-Benzyl-cis-3-methyl-piperidin-4-ol
Dissolve 1-benzyl-3-methyl-piperidin-4-one (5.0 g, 24.6 mmol) in dry tetrahydrofuran (100 mL) and cool the resulting solution to 0° C. Add 1 mL-lithium tri-sec-butylborohydride (L-Selectride®) solution in tetrahydrofuran (29.6 mL, 29.6 mmol) dropwise over 30 min. After stirring at 0° C. for 1 hr., quench with water (50 mL), extract with ethyl acetate (2×100 mL), wash the combined organic layers with aqueous NaCl solution (100 mL), separate the organic layer, dry over sodium sulfate, filter and concentrate. Purify the residue by silica gel flash chromatography eluting with 5% (2M NH3/methanol)/methylene dichloride to obtain of the title compound as a mixture of enantiomers (3.84 g, 76%). 1H NMR (CDCl3): 7.25 (m, 5H), 3.8 (m, 1H), 3.5 (s, 2H), 2.4 (m, 3H), 2.2 (m, 1H), 1.9 (m, 1H), 1.8 (m, 2H), 0.95 (d, 3H).

reactant | 1-benzyl-3-methyl-piperidin-4-one | 24.6 mmol, 5.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
reactant | lithium tri-sec-butylborohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 29.6 mmol, 29.6 mL | O1CCCC1 | C4H8O
product | 1-Benzyl-cis-3-methyl-piperidin-4-ol | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)O)C | C13H19NO
